US08912186B2
The solution of commercial 4-nitro-1,2-phenylenediamine (0.31 g) and 3-(4-chlorophenyl)glutaric anhydride (0.45 g) in 1,4-dioxane (3 ml) was stirred under reflux for 0.75 h. 4M HCl in 1,4-dioxane (3 ml) was added and the solution is further heated to reflux for 1 h. After cooling to rt the precipitate is collected by suction filtration and washed with 1,4-dioxane and diethyl ether. The crude is recrystallised from acetic acid to give 4-(5-benzoyl-2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid HCl (0.59 g) as beige coloured solid.

reactant | 4-nitro-1,2-phenylenediamine | 0.31 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | 3-(4-chlorophenyl)glutaric anhydride | 0.45 g | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
reactant | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-(5-benzoyl-2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid HCl | 0.59 g | Cl.C(C1=CC=CC=C1)(=O)C1=CC2=C(N=C(N2)CC(CC(=O)O)C2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C24H19ClN2O3.ClH/c25-19-9-6-15(7-10-19)18(14-23(28)29)13-22-26-20-11-8-17(12-21(20)27-22)24(30)16-4-2-1-3-5-16;/h1-12,18H,13-14H2,(H,26,27)(H,28,29);1H
